US07429609B2
5-Bromo-2,3-difluoro Benzaldehyde
To a solution of 18.0 g of 5-bromo-2,3-difluoro-4-trimethylsilanyl benzaldehyde in 20 mL of N,N-dimethylformamide and 2 mL of water was added 1.63 g of cesium fluoride at room temperature, and stirred at this temperature for 1 hour. After diluting with ethyl acetate, the organic layer was washed successively with saturated aqueous ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated, to afford 10.26 g of the title compound as a colorless oil.

reactant | 5-bromo-2,3-difluoro-4-trimethylsilanyl benzaldehyde | 18.0 g | BrC=1C(=C(C(=C(C=O)C1)F)F)[Si](C)(C)C | C10H11BrF2OSi
reactant | cesium fluoride | 1.63 g | [F-].[Cs+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2,3-difluoro Benzaldehyde | 10.26 g | BrC=1C=C(C(=C(C=O)C1)F)F | C7H3BrF2O
